US08461159B2
To a solution of 2,6-diaminopyridine (5.00 g, 45.8 mmol) in 1:1H2O:EtOH (10 mL) were added sodium bicarbonate (5.00 g, 59.5 mmol) and chloroacetaldehyde (4.31 g, 27.5 mmol). The reaction mixture was heated to 70° C. overnight, then cooled to rt, diluted with saturated aqueous NaCl (100 mL), and extracted with n-butanol (3×200 mL). The organic layers were combined, dried (MgSO4), and concentrated. The crude residue was purified (FCC, 2 N NH3 in MeOH/DCM) to give imidazo[1,2-a]pyridin-5-ylamine (1.32 g, 22%). MS (ESI+): calcd for C7H7N3 m/z 133.06. found 134.1 (M+H)+. 1H NMR (d6-DMSO): 8.23-8.21 (m, 1H), 7.91 (d, J=1.3, 1H), 7.50 (dd, J=8.8, 7.4, 1H), 7.22 (d, J=8.8, 1H), 6.97 (br s, 2H), 6.37 (dd, J=7.4, 0.9, 1H).

reactant | 2,6-diaminopyridine | 45.8 mmol, 5.00 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | EtOH | 10 mL | CCO | C2H6O
reactant | sodium bicarbonate | 59.5 mmol, 5.00 g | C([O-])(O)=O.[Na+]
reactant | chloroacetaldehyde | 27.5 mmol, 4.31 g | ClCC=O | C2H3ClO
solvent | NaCl | 100 mL | [Na+].[Cl-]
product | imidazo[1,2-a]pyridin-5-ylamine | 1.32 g, 22% | N=1C=CN2C1C=CC=C2N | C7H7N3
